US08383827B2
To a solution of 4-(5-(1-aminocyclopropyl)pyridin-3-yl)-2-chlorobenzonitrile (70 mg, 0.26 mmol) in DCM (3 mL) at room temperature was added TEA (0.109 mL, 0.779 mmol) and EtSO2Cl (74 μL, 0.779 mmol) dropwise, and the mixture was stirred at room temperature for 1 h. The mixture was concentrated in vacuo, re-dissolved in DMF (3 mL) and filtered. The filtrate was purified by Xbridge Phenyl followed by Xbridge C18 eluting with 20-80% ACN-water gradient to give N-(1-(5-(3-chloro-4-cyanophenyl)pyridin-3-yl)cyclopropyl)ethanesulfonamide. HRMS: (ESI) m/z 362.0712 [(M+H)+ Calcd for C17H96ClN3O2S 362.0725]. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.28 (t, J=7.3 Hz, 3H), 1.32-1.38 (m, 2H), 1.49-1.54 (m, 2H), 2.90 (q, J=7.4 Hz, 2H), 7.60 (dd, J=8.1, 1.8 Hz, 1H), 7.74 (d, J=1.8 Hz, 1H), 7.79 (d, J=8.1 Hz, 1H), 8.01 (t, J=2.3 Hz, 1H), 8.67 (d, J=2.3 Hz, 1H), 8.72 (d, J=2.3 Hz, 1H).

reactant | 4-(5-(1-aminocyclopropyl)pyridin-3-yl)-2-chlorobenzonitrile | 0.26 mmol, 70 mg | NC1(CC1)C=1C=C(C=NC1)C1=CC(=C(C#N)C=C1)Cl | C15H12ClN3
reactant | EtSO2Cl | 0.779 mmol, 74 μL | C(C)S(=O)(=O)Cl | C2H5ClO2S
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | N-(1-(5-(3-chloro-4-cyanophenyl)pyridin-3-yl)cyclopropyl)ethanesulfonamide | ClC=1C=C(C=CC1C#N)C=1C=C(C=NC1)C1(CC1)NS(=O)(=O)CC | C17H16ClN3O2S
